US04297516
4-Trimethylsilyloxy-2-(6-methoxyacetylhexyl)cyclopent-2-en-1-one
To a stirred mixture of 11 g of 4-hydroxy-2-(6-methoxyacetylhexyl)cyclopent-2-en-1-one and 7.33 g. of hexamethyldisilazane in 20 ml. of pyridine is added 2.47 g. of chlorotrimethylsilane. The mixture is stirred at room temperature overnight, the solvent is removed at reduced pressure and the residue is dissolved in petroleum ether and filtered through Celite. The petroleum ether is removed and the residue is distilled via a Kugelrohr at 170°-180° C., 0.05 mm. giving an orange oil. To this oil is added 10 ml. of pyridine, 1.5 ml. of hexamethyldisilazane and 0.7 ml. of chlorotrimethylsilane. After standing for 30 minutes, the mixture is extracted with petroleum ether. The petroleum ether is dried over magnesium sulfate and then the solvent is removed giving the desired product as a yellow oil.

reactant | 4-hydroxy-2-(6-methoxyacetylhexyl)cyclopent-2-en-1-one | 11 g | OC1C=C(C(C1)=O)CCCCCCC(COC)=O | C14H22O4
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Trimethylsilyloxy-2-(6-methoxyacetylhexyl)cyclopent-2-en-1-one | C[Si](OC1C=C(C(C1)=O)CCCCCCC(COC)=O)(C)C | C17H30O4Si
